Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
aortic stenosis 
 
Major Surgical or Invasive Procedure:
TAVR on ___
 
History of Present Illness:
___ year old female with history of CAD s/p CABG ___, PCI ___, 
HTN, osteoarthritis presents today for evaluation of severe 
aortic stenosis.  She was referred to ___ for SAVR but CT on 
___ showed severe calcifications of the thoracic aorta and 
she was referred to integrated valve clinic for potential TAVR 
workup.

Ms. ___ reports increasing shortness of breath and angina with
minimal activity.  She used to walk two to three times a week 
but
is unable to do so now given her SOB which has been 
progressively
increasing over the past year and half. The patient reports that
she is unable to work in her yard without becoming short of
breath and fatigued.  She denies syncope, dizziness or
palpitations.  

On admission, she denies any complaints. She says that her 
walking is limited by angina and shortness of breath.

 
Past Medical History:
Aortic stenosis
CAD
hyperlipidemia
HTN
anxiety
osteoarthritis

Past Surgical History:
appendectomy
tonsillectomy
hernia repair
CABG x4, ___ at ___ SVG-OM ___
 
Social History:
___
Family History:
Positive familial history of heart disease.  One brother died at
___ from MI, sister died of heart disease at ___.  ___ yo
___ has heart disease and another brother has "heart
problems." 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
 Gen:  well-appearing thin woman, slightly anxious, in NAD
 HEENT:  EOMI, PERLLA
 NECK:  no cervical lymphadenopathy, supple
 CV:  Normal S1, S2. RRR. ___ systolic murmur heard throughout, 
loudest at LUSB.
 LUNGS:  CTAB.
 ABD:  soft, non-distended, non-tender
 EXT:  wwp. no edema. hands with ulnar deviation, ___ and 
___ nodes throughout all fingers b/l.
 SKIN:  no rashes. bruising on R lower calf.
 NEURO:  AAOX3, grossly moving all extremities.

DISCHARGE PHYSICAL EXAM:
==========================
Weight: 47.1 kg
 Gen:  well-appearing thin woman, slightly anxious, in NAD
 HEENT:  EOMI, PERLLA
 NECK:  no cervical lymphadenopathy, supple
 CV:  Normal S1, loud S2. RRR. II/VI systolic murmur heard best 
at RUSB.
 LUNGS:  CTAB.
 ABD:  soft, non-distended, non-tender
 EXT:  wwp. no edema. hands with ulnar deviation, ___ and 
___ nodes throughout all fingers b/l.
 SKIN:  no rashes. bruising on R lower calf.
 NEURO:  AAOX3, grossly moving all extremities.
 
Pertinent Results:
ADMISSION LABS:
==========================
___ 03:22PM BLOOD WBC-7.1 RBC-4.05 Hgb-12.0 Hct-37.7 MCV-93 
MCH-29.6 MCHC-31.8* RDW-13.4 RDWSD-45.7 Plt ___
___ 03:22PM BLOOD Neuts-58.2 ___ Monos-8.6 Eos-1.8 
Baso-1.4* Im ___ AbsNeut-4.15 AbsLymp-2.13 AbsMono-0.61 
AbsEos-0.13 AbsBaso-0.10*
___ 03:22PM BLOOD ___ PTT-29.0 ___
___ 03:22PM BLOOD Glucose-93 UreaN-24* Creat-1.0 Na-139 
K-3.8 Cl-103 HCO3-24 AnGap-16
___ 03:22PM BLOOD ALT-27 AST-33 LD(LDH)-243 AlkPhos-65 
TotBili-0.3
___ 03:22PM BLOOD Calcium-9.3 Phos-3.7 Mg-2.1

OTHER PERTINENT LABS:
==========================

MICRO DATA:
==========================
___ MRSA Screen: Negative

IMAGING/STUDIES:
==========================
___ CXR:  
1.  Patient is status post CABG, stented. Severely calcified 
aortic valve, 
annulus, and thoracic aorta. 
2.  Lungs are clear. 

___ CXR:
In comparison with the study of ___, there is little 
change in the 
appearance the heart and lungs and no evidence of acute 
pneumonia or vascular congestion.  Right IJ sheath is now in 
place. 

___ CTA HEAD:
1. No acute hemorrhage. 
2. Small infarction in the left frontal lobe, in the middle 
cerebral artery territory, without mass effect on with partial 
volume loss, is most likely chronic, and less likely subacute. 
3. Areas of low density in the supratentorial white matter are 
nonspecific but likely sequela of chronic small vessel ischemic 
disease in this age group.  In the setting, detection of small 
acute white matter infarcts is limited. 
4. Atherosclerosis of bilateral internal carotid arteries 
without 
flow-limiting stenosis. 
5. Mild short-segment atherosclerotic stenosis of the proximal 
V4 segment of the left vertebral artery. 

___ TAVR placement
PreTAVR Deployment
 No spontaneous echo contrast is seen in the body of the left 
atrium. No mass/thrombus is seen in the left atrium or left 
atrial appendage. No atrial septal defect is seen by 2D or color 
Doppler. There is mild symmetric left ventricular hypertrophy. 
Regional left ventricular wall motion is normal. There is mild 
global left ventricular hypokinesis (LVEF = 50 %). Right 
ventricular chamber size and free wall motion are normal. There 
are focal calcifications in the aortic arch. There are simple 
atheroma in the descending thoracic aorta. There are three 
aortic valve leaflets. The aortic valve leaflets are severely 
thickened/deformed. There is severe aortic valve stenosis (valve 
area 0.5cm2). Mild to moderate (___) aortic regurgitation is 
seen. The aortic regurgitation jet is eccentric. The mitral 
valve leaflets are moderately thickened. Mild (1+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is no pericardial effusion. These findings were 
discussed with Drs. ___, and ___ at the time of exam 
in the operating room.
 PostTAVR Deployment
 There is a well-seated TAVR valve in place. A trace 
paravalvular leak is noted. No new regional wall motion 
abnormalities are seen. The rest of exam is unchanged from 
predeployment. The findings were discussed with the Cardiology 
and Cardiac Surgery team at the time of exam in the operating 
room.  

___ carotid US
IMPRESSION:  
Moderate heterogeneous atherosclerotic plaque in the left ICA 
resulting in no hemodynamically significant stenosis based on 
sonographic criteria. 

___ ECHO:
IMPRESSION: Well-seated Lotus aortic valve with normal 
transvalvular gradients. Moderate tricuspid regurgitation with 
moderate pulmonary hypertension.  

___ MRI Head
IMPRESSION: 
1. Motion artifact which degrades spatial resolution. 
2. Re- demonstration of a subacute infarction within the left 
mid frontal 
middle and inferior gyri. 
3. Acute punctate infarcts within the bilateral frontal 
cortices, bilateral occipital cortices, central cerebellar 
lobule and left cerebellar hemisphere. Small areas of acute 
infarction at the right posterior inferior and right anterior 
inferior cerebellar hemisphere.  Findings correspond to multiple 
vascular territories suggestive of an embolic, central source. 
No obvious evidence of hemorrhagic conversion. 
4. Background moderate volume loss and sequela of chronic 
small-vessel 
ischemic disease. 

DISCHARGE LABS:
==========================
___ 07:40AM BLOOD WBC-10.1* RBC-3.55* Hgb-10.4* Hct-32.6* 
MCV-92 MCH-29.3 MCHC-31.9* RDW-13.4 RDWSD-45.3 Plt ___
___ 07:40AM BLOOD Glucose-96 UreaN-11 Creat-0.8 Na-136 
K-4.4 Cl-100 HCO3-29 AnGap-11
___ 07:40AM BLOOD Calcium-8.7 Phos-2.2* Mg-1.___RIEF SUMMARY STATEMENT:
============================
___ year old female with history of CAD s/p CABG ___, PCI ___, 
HTN, osteoarthritis presented for TAVR on ___. Her course was 
complicated by word-finding difficulty on ___ after the 
procedure, and CT head showed moderate sized 3.5-4h infarct. 
Neurology recommended MRI which showed subacute infarction 
within the left mid frontal middle and inferior gyri. Multiple 
vascular territories suggestive of an embolic, central source, 
small vessel ischemic disease and acute punctate infarcts within 
multiple areas of the brain. She was seen by neurology and her 
defecits completely resolved prior to discharge. 

ACTIVE ISSUES:
============================
#) SEVERE AORTIC STENOSIS:
Patient underwent TAVR on ___ for severe aortic stenosis. TEE 
post-procedure showed a well seated TAVR without wall motion 
abnormalities. 

#) ACUTE WORD FINDING DIFFICULTY:
After her TAVR on ___, patient developed acute word-finding 
difficulty, concerning for stroke. Code stroke was called, and 
CT head showed moderate sized infarct 3.5-4h infarct that 
explains symptoms, likely cardioembolism from how quickly it 
appeared. Neurology was consulted, and recommended MRI head 
without contrast. This showed multiple areas of punctate 
hemorrhage suggestive of a central embolic source. TTE with 
bubble showed no PFO. Overnight on ___, she was started on a 
nitro gtt to maintain SBP below 180s. Her pressures improved and 
she was transferred to the floor. She was seen by neurology and 
her defecits completely resolved prior to discharge.

CHRONIC ISSUES:  
============================ 
#CAD: continued atorvastatin 40 mg, clopidogrel 75 mg

#HTN: continued amlodipine 5 mg

#OA: stable. 

#Depression/anxiety: continued venlafaxine 75 qAM and 37.5 qPM

TRANSITIONAL ISSUES:
============================
# Please follow up pulmonary nodule seen on CXR in 12 months.
# Patient not on ACEI or beta blocker for CAD. Should consider 
these medications as outpatient for optimizing CAD medication 
regimen.
# Discharge weight: 47.1 kg
# Code: Full Code
# Contact/HCP: daughter ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Aspirin 325 mg PO DAILY 
7. Venlafaxine 75 mg PO QAM 
8. Venlafaxine 37.5 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Venlafaxine 75 mg PO QAM 
6. Venlafaxine 37.5 mg PO QPM 
7. Clopidogrel 75 mg PO DAILY 
8. Amlodipine 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Severe Aortic Stenosis status post transcatheter aortic valve 
replacement
Transient Ischemic Attack

SECONDARY DIAGNOSES
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for an 
elective procedure to replace your aortic valve. You tolerated 
your procedure well, and the post-operative echocardiogram of 
your heart shows that the new valve is in the correct position. 
After the procedure, you had some word-finding difficulties and 
confusion. An MRI of your brain showed some small strokes, most 
likely from small clots that traveled to the brain from the 
aorta during your aortic valve replacement procedure. Your 
neurologic symptoms completely resolved before you were 
discharged.

It has been a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___